US04870064
A mixture of 3-chloro-4,5-dipropargyloxybenzyl alcohol (1.00 g), potassium hydroxide (1.00 g), iodomethane (1.00 g) and tetra-n-butylammonium bromide (1.00 g) in tetrahydrofuran (30 ml) was stirred at room temperature for 2 hours, poured into ice-water and extracted with ethyl acetate. The extract was washed with water, dried over magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography using toluene as an eluent to give 1-chloro-5-methoxymethyl-2,3-dipropargyloxybenzene (0.95 g). nD23.0 1.5450.

reactant | 3-chloro-4,5-dipropargyloxybenzyl alcohol | 1.00 g | ClC=1C=C(CO)C=C(C1OCC#C)OCC#C | C13H11ClO3
reactant | potassium hydroxide | 1.00 g | [OH-].[K+]
reactant | iodomethane | 1.00 g | IC | CH3I
catalyst | tetra-n-butylammonium bromide | 1.00 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 1-chloro-5-methoxymethyl-2,3-dipropargyloxybenzene | 0.95 g | ClC1=C(C(=CC(=C1)COC)OCC#C)OCC#C | C14H13ClO3
